US07108895B2
Into a 10 L four-necked flask, 600 g (4.00 mol) of (S)-(+)-2-phenylpropionic acid, 2.4 L of tetrachloroethylene, 951 g (8.00 mol) of thionyl chloride and a small amount of dimethylaniline were added, followed by stirring at room temperature overnight, and excess of thionyl chloride and tetrachloroethylene were distilled off under reduced pressure to obtain 691 g of (S)-2-phenylpropionic chloride.

reactant | (S)-(+)-2-phenylpropionic acid | 4.00 mol, 600 g | C1(=CC=CC=C1)[C@@H](C(=O)O)C | C9H10O2
reactant | thionyl chloride | 8.00 mol, 951 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
solvent | tetrachloroethylene | 2.4 L | ClC(=C(Cl)Cl)Cl | C2Cl4
product | (S)-2-phenylpropionic chloride | 691 g | C1(=CC=CC=C1)[C@@H](C(=O)Cl)C | C9H9ClO
